Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Melena
 
Major Surgical or Invasive Procedure:
EGD
Radiofrequency ablation of liver lesions

 
History of Present Illness:
___ yo man with h/o etoh/HCC cirrhosis, esophageal varices with 
melena with black emesis and dark tarry stools ___. He states 
the melena started ___. He also had some lightheadedness. He 
notes some abdominal pain during the ambulance ride that 
improved with zofran. His partner encouraged him to go to the 
ED. At ___ hct 37.2.  
  
In the ED VS: 98.7 76 117/75 18 99% on 2L NC. He 2L NS. 2 
Melenic, guaiac + stools. HR 80, SBP 120, hemodynamically 
stable. Was initially to go to floor, housestaff uncomfortable.  

  
ROS: no wt change, change in abdominal girth, fevers, chills, 
head ache, chest pain, sob, palpitations, sob, dysuria, 
hematuria, confusion, rash.  
 
Past Medical History:
- Etoh/HCV cirrhosis with varices, ascites, and previous 
episodes of encephalopathy, Last viral load 7,340 IU/mL ___. 
The patient has not had a liver biopsy nor has the patient had 
any treatment to date for his hepatitis C followed by Dr. ___ 
___ seen ___. EGD ___ revealing varices at the lower 
third of the esophagus, with two bands placed, and portal 
gastropathy. Grade 3 esophageal varices with multiple admissions 
for GIB, banding in past; last EGD ___ varices too small to 
band.  
- Ethanol abuse with history of DTs: + hallucinations in the 
past but no intubations or seizures.  
- h/o Nephrolithiasis.  
- MVA ___ with two fractured lumbar vertebrae, torn  
rotator cuff, and humeral head fracture.  
- h/o coagulopathy, anemia (baseline Hct ~30), thrombocytopenia  

- foot surgery  
- facial reconstruction as a child  
- leg cramps  
- asthma  
- Hep B SAg/sAb negative ; Hep A immune  
- HIV negative ___  
- AFP 1.81 ___, U/S ___ with 1.1cm echogenic focus 
in left lobe, f/u MRI limited  

 
Social History:
___
Family History:
He does not know of any liver disease or colon cancer. Father 
with a history of alcoholism 
 
Physical Exam:
VS: T 97.9 HR 89 BP 129/82 RR 24 Sat 93% on RA  
GEN: NAD  
HEENT: AT, NC, PERRLA, EOMI, no conjuctival injection, 
anicteric, OP clear, MMM  
Neck: supple, no LAD, no carotid bruits  
CV: RRR, nl s1, s2, no m/r/g  
PULM: CTAB, no w/r/r with good air movement throughout  
ABD: protuberant, soft, NT, ND, + BS, no obvious HSM on 
percusion, ? small fluid wave, no caput  
EXT: warm, dry, +2 distal pulses ___, no femoral bruits  
Skin: spider angiomas on chest, scattered ___ damage 
 
NEURO: alert & oriented, CN II-XII grossly intact, ___ strength 
throughout. No sensory deficits to light touch appreciated. No 
asterixis.  
PSYCH: appropriate affect, no anxiety, tremulousness, 
diaphoresis  
 
Pertinent Results:
Admission labs: 
138|105|10 
-----------<128
3.7|25|0.6  
Ca: 7.5 Mg: 1.3 P: 2.6
ALT: 38 AP: 124 Tbili: 4.9 Alb: 2.3 
AST: 111 
.
   11.8
7.5>--<152   
  33.9  
___: 19.6  PTT: 35.6  INR: 1.8  
Fibrinogen: 256 D

EGD: no actively bleeding vessels (please see full report in OMR 
for further details)

Radiofrequency ablation: 
1. Successful radiofrequency ablation of the patient's liver 
tumor.

___ 05:45AM BLOOD WBC-6.0 RBC-2.72* Hgb-10.1* Hct-28.6* 
MCV-105* MCH-37.1* MCHC-35.2* RDW-17.0* Plt Ct-91*
___ 05:45AM BLOOD Plt Ct-91*
___ 05:45AM BLOOD Glucose-169* UreaN-8 Creat-0.6 Na-130* 
K-3.4 Cl-96 HCO3-29 AnGap-8
___ 05:45AM BLOOD ALT-29 AST-92* LD(LDH)-276* AlkPhos-107 
TotBili-3.6*
___ 05:45AM BLOOD Calcium-8.5 Phos-3.8 Mg-1.4*
 
Brief Hospital Course:
___ yo man with alcoholic cirrhosis, known esophageal varices 
admitted with melena and emesis.  The patient was 
hemodynamically stable throughout his admission.  He had no 
further episodes of melena during this hospital course.  The 
patient was initially maintained with two large bore IVs with a 
plan to transfuse for a hematocrit less than 28.  He had an EGD 
which did not demonstrate any actively bleeding lesions.  

The patient was actively drinking prior to admission.  Although 
he denied a history of withdrawal seizures he was tachycardic, 
hypertensive and nauseated on admission. He was maintained on a 
q2 hour CIWA scale, with decreasing benzo requirements 
throughout his admission.  The patient was also maintained on 
thiamine, folate and a multivitamin.  His clonidine was 
discontinued on admission and restarted once the patient was 
called out to the floor.  

The patient has a coagulopathy secondary to his chronic 
cirrhosis.  His disease is secondary to ETOH with HCC, and he is 
followed by Dr. ___. His disease is complicated by portal 
hypertension, hypertensive gastropathy, esophageal varices s/p 
banding and melena in the past, as well as ascites, 
thrombocytopenia, anemia, and coagulopathy.  His medications 
were initially held but once it was clear the patient was not 
actively bleeding, his nadolol, furosemide, spironolactone and 
lactulose were restarted.

The patient had a stable thrombocytopenia.  He did receive FFP 
prior to a planned RFA for three liver lesions.  The procedure 
went well and the patient was discharged the following day.

The patient was continued on his outpatient pain regimen of 
Neurontin and a lidocaine patch.  

He also had a chronic stable anemia which was macrocytic, likely 
multifactorial given GIB, EtOH use and liver disease. Vitamin 
B12 ___, folate 11.8 ___.  
  
The patient was a full code throughout this admission.  
Communication was as follow: mother ___ (HCP) ___, 
Partner ___ ___, (c) ___.  

 
Medications on Admission:
Pt poor historian, unable to verify meds  
Clonidine 0.1 mg PO TID  
Fluticasone 50 mcg/Actuation Nasal BID  
Folic Acid 1 mg PO DAILY  
Furosemide 40 mg PO DAILY  
Gabapentin 300 mg PO Q8H  
Lactulose 10 gram/15 mL ThirtyML PO four times a day - only 
takes when constipated  
Nadolol 40 mg PO DAILY  
Pantoprazole 40 mg PO Q24H - states bid  
Ferrous Sulfate 325 mg PO DAILY  
Hexavitamin PO DAILY - not likely taking  
Thiamine HCl 100 mg PO DAILY  
Lidocaine 5 %(700 mg/patch) Topical DAILY  
Spironolactone 100 mg PO DAILY  
Nicotine 21 mg/24 hr Transdermal DAILY  

 
Discharge Medications:
1. Clonidine 0.1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
2. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal BID (2 times a day).  
3. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours).  
6. Lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO TID (3 
times a day).  
7. Nadolol 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
8. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
9. Hexavitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
10. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily): on for 
12, off for 12 hours.  
12. Spironolactone 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Alcoholic cirrhosis
GI bleed
Secondary:
HCV
Liver lesions 
Asthma

 
Discharge Condition:
Stable 

 
Discharge Instructions:
You were admitted to the hospital with concern for 
gastrointestinal bleeding.  While you were in the hospital, you 
had an EGD which did not demonstrate any actively bleeding 
vessels.  

You also had radiofrequency ablation of the lesions in your 
liver.  Your blood counts have been stable since your admission 
to the hospital.

Please take all of your medications as prescribed.  Please call 
your physician or come to the emergency room with anyfevers, 
vomiting, blood in your stool or your vomit, confusion or other 
symptoms you find concerning. 
 
Followup Instructions:
___